US09428509B2
Aziridin-1-yl(4-((4-(cyclopentyloxy)-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxyphenyl)methanone
To a degassed mixture of 6-(2-chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole (1 equiv), (4-amino-3-methoxyphenyl)(aziridin-1-yl)methanone (1.2 equiv) and cesium carbonate (3 equiv) in 1,4-dioxane (0.1 M) was added palladium acetate (0.2 equiv) and 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl (0.2 equiv). The reaction was stirred at 100° C. for 2 h. The reaction mixture was concentrated and the residue was purified by silica gel chromatography (0-10% DCM in MeOH) to afford the title compound (crude) as a yellow solid. The material was used in next step without further purification. MS (ESI) m/z 655.1 [M+1]+.

reactant | 6-(2-chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CCCC2 | C25H31ClN4O3Si
reactant | (4-amino-3-methoxyphenyl)(aziridin-1-yl)methanone | 1.2 equiv | NC1=C(C=C(C=C1)C(=O)N1CC1)OC | C10H12N2O2
reactant | cesium carbonate | 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl | 0.2 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | 1,4-dioxane | 0.1 M | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.2 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Aziridin-1-yl(4-((4-(cyclopentyloxy)-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxyphenyl)methanone | N1(CC1)C(=O)C1=CC(=C(C=C1)NC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CCCC2)OC | C35H42N6O5Si
